US04997840
Bromine (1.57 ml) was added dropwise over a period of 5 minutes to a stirred solution of 2'-acetyl-4',5'-dimethoxy-N-methylformanilide (7.13 g) in glacial acetic acid (35 ml) at ambient temperature. The mixture was stirred for 45 minutes and then diluted with dichloromethane (350 ml) before washing with saturated aqueous sodium sulphite (175 ml) then aqueous sodium bicarbonate (1M, 350 ml). The mixture was dried over magnesium sulphate and the solvent was removed by evaporation to give crude 2'-(2-bromoacetyl)-4',5'-dimethoxy-N-methylformanilide.

reactant | Bromine | 1.57 ml | BrBr | Br2
reactant | 2'-acetyl-4',5'-dimethoxy-N-methylformanilide | 7.13 g | C(C)(=O)C1=C(N(C=O)C)C=C(C(=C1)OC)OC | C12H15NO4
solvent | acetic acid | 35 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
product | 2'-(2-bromoacetyl)-4',5'-dimethoxy-N-methylformanilide | BrCC(=O)C1=C(N(C=O)C)C=C(C(=C1)OC)OC | C12H14BrNO4
